data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_147590_0,[C:1](/[C:5]([C:3]([H:16])([H:17])[H:18])=[C:4](\[C:2]([H:13])([H:14])[H:15])[N:6]([H:9])[H:10])([O:7][H:8])([H:11])[H:12]>>[C:1](=[C:5]([C:3]([H:16])([H:17])[H:18])[C@@:4]([C:2]([H:13])([H:14])[H:15])([N:6]([H:9])[H:10])[O:7][H:8])([H:11])[H:12],48.09787500001832
MR_301979_0,[C:1]1([C:4]([C:2]([C:6]([H:19])([H:20])[H:21])([C:7]([C:5]([H:16])([H:17])[H:18])=[O:9])[H:11])([H:14])[H:15])([H:10])[C:3]([H:12])([H:13])[O:8]1>>[C:1]1([C:4]([C@:2]([C:6]([H:19])([H:20])[H:21])([C:7]([C:5]([H:16])([H:17])[H:18])=[O:9])[H:11])([H:14])[H:15])([H:10])[C:3]([H:12])([H:13])[O:8]1,66.22948750000404
MR_488579_0,[C:1]([C:4]([C:2]([H:14])([H:15])[H:16])=[N:8][N:3]([C:5](=[C:6]([H:17])[H:18])[H:10])[O:7][H:9])([H:11])([H:12])[H:13]>>[C:1]([C:4]([C:2]([H:14])([H:15])[H:16])([C:5](=[C:6]([H:17])[H:18])[H:10])/[N:8]=[N:3]/[O:7][H:9])([H:11])([H:12])[H:13],67.09104500004031
MR_630340_0,[C:1]([N:3]([N:4]([C:2]([H:15])([H:16])[H:17])[C:5]([O:6][H:10])=[O:9])/[N:7]=[N:8]\[H:11])([H:12])([H:13])[H:14]>>[C:1]([N:3]([N:4]([C:2]([H:15])([H:16])[H:17])/[N:7]=[N:8]\[H:11])[C:5]([O:6][H:10])=[O:9])([H:12])([H:13])[H:14],25.82288000000688
MR_344110_0,[C:1]1([C:4]([H:13])([H:14])[H:15])([O:8][C:6]([C:5]([H:16])([H:17])[H:18])=[C:7]([H:19])[H:20])[C:2]([H:10])([H:11])[C:3]1([H:9])[H:12]>>[C:1]([C:3]([C:2]([C:6]([C:5]([H:16])([H:17])[H:18])=[C:7]([H:19])[H:20])([H:10])[H:11])([H:9])[H:12])([C:4]([H:13])([H:14])[H:15])=[O:8],70.63955749999849
MR_288364_1,[C:1](/[C:4]([C:3]([N:5]([H:8])[H:9])=[C:7]([H:14])[H:15])=[C:6](\[C:2]([H:16])([H:17])[H:18])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:4]1=[C:3]([N:5]([H:8])[H:9])[C:7]([H:14])([H:15])[C:6]1([C:2]([H:16])([H:17])[H:18])[H:10])([H:11])([H:12])[H:13],40.08281750002993
MR_584263_0,[C:1]([C:3]1([N:2]([N:5]([H:10])[H:11])[H:9])[C:4](=[C:7]([H:17])[H:18])[N:8]1[H:12])([N:6]([H:13])[H:14])([H:15])[H:16]>>[C:1]([C:4](/[C:3]([N:2]([N:5]([H:10])[H:11])[H:9])=[N:8]\[H:12])=[C:7]([H:17])[H:18])([N:6]([H:13])[H:14])([H:15])[H:16],64.13363749994517
MR_513898_1,[C:1]([C:3](/[C:2](=[C:4](\[O:6][H:9])[H:11])[O:5][H:8])=[N:7]/[H:10])([H:12])([H:13])[H:14]>>[C:1]([C:3](/[C:4](=[C:2](\[O:5][H:8])[H:11])[O:6][H:9])=[N:7]/[H:10])([H:12])([H:13])[H:14],61.26658999997858
MR_312711_2,[C:1]([C:2]([H:11])([H:12])[H:13])([C:3](=[O:6])[H:9])([C:4](=[O:7])[H:10])[O:5][H:8]>>[C:1]1([C:2]([H:11])([H:12])[H:13])([O:5][H:8])[C:3]([C:4](=[O:7])[H:10])([H:9])[O:6]1,52.961627500044415
MR_129683_1,[N:1]([C:2](=[C:4]([H:10])[H:11])[O:6][H:7])([C:3](=[C:5]([H:12])[H:13])[H:9])[H:8]>>[N:1](=[C:2](/[C:4]([C:3](=[C:5]([H:12])[H:13])[H:9])([H:10])[H:11])[O:6][H:7])\[H:8],68.02790250002914
MR_544160_2,[C:1]([C:2]([H:14])([H:15])[H:16])([N:6]([H:10])[H:11])([C:7](=[O:9])[H:12])[C:8](=[C:5]([C:3]([H:17])([H:18])[H:19])[C:4]([H:20])([H:21])[H:22])[H:13]>>[C:1](\[C:2]([H:14])([H:15])[H:16])([N:6]([H:10])[H:11])=[C:8](/[C:5]([C:3]([H:17])([H:18])[H:19])([C:4]([H:20])([H:21])[H:22])[C:7](=[O:9])[H:12])[H:13],51.46880499999682
MR_215193_2,[C:1](=[C:3]([H:9])[H:10])([O:4][H:6])[N:5]=[C:2]([H:7])[H:8]>>[C:1](=[C:3]([H:9])[H:10])([O:4][N:5]=[C:2]([H:7])[H:8])[H:6],49.58944249997991
MR_54763_1,[C:1]([N:2]([O:3][N:4]=[O:5])[H:6])([H:7])([H:8])[H:9]>>[C:1]([N:2]([O:3][H:6])[N:4]=[O:5])([H:7])([H:8])[H:9],54.1821149999592
MR_297789_1,[C:1](/[C:5]([C:4]([C:2]([C:3]([H:16])([H:17])[H:18])([H:14])[H:15])([O:6][H:10])[O:9][H:11])=[N:8]/[H:13])(=[O:7])[H:12]>>[C:1]([C:2]([C:3]([H:16])([H:17])[H:18])([H:14])[H:15])(/[C:5]([C:4]([O:6][H:10])=[O:9])=[N:8]/[H:13])([O:7][H:11])[H:12],56.03700499998439
MR_49505_0,[C:1]([C:2]([O:5][C:3](=[C:4]([H:12])[H:13])[O:6][H:8])=[O:7])([H:9])([H:10])[H:11]>>[C:1]([C:2](=[O:5])[O:7][C:3](=[C:4]([H:12])[H:13])[O:6][H:8])([H:9])([H:10])[H:11],46.01520249999752
MR_77353_1,[C:1]1([H:10])([H:11])[C:2](=[O:6])[N:5]([H:9])[C:4]1([N:3]([H:7])[H:8])[H:12]>>[C:1]([C:2]([N:3]([H:7])[H:8])=[O:6])(/[C:4](=[N:5]/[H:9])[H:12])([H:10])[H:11],67.42863999997269
MR_410286_1,[C:1](\[C:2]([H:14])([H:15])[H:16])(=[C:6](\[C:4]([C:3]([H:17])([H:18])[H:19])([N:5]([H:10])[H:11])[C:7](=[C:8]([H:20])[H:21])[H:13])[H:12])[H:9]>>[C:1]([C:2]([H:14])([H:15])[H:16])(/[C:6](=[C:4](\[C:3]([H:17])([H:18])[H:19])[N:5]([H:10])[H:11])[H:12])([C:7](=[C:8]([H:20])[H:21])[H:13])[H:9],68.79219749998995
MR_600381_0,[C:1]1([C:4]([C:2]([C:5]([H:17])([H:18])[H:19])([C:6](=[C:7]([H:20])[H:21])[O:9][H:10])[H:12])([H:15])[H:16])([H:11])[C:3]([H:13])([H:14])[O:8]1>>[C:1]1([C:3]([O:8][H:12])([H:13])[H:14])([H:11])[C:2]([C:5]([H:17])([H:18])[H:19])([C:6](=[C:7]([H:20])[H:21])[O:9][H:10])[C:4]1([H:15])[H:16],65.00272500003376
MR_278622_0,[C:1]([N:3]([C:2]([H:13])([H:14])[H:15])[H:7])(/[N:6]=[C:5](\[N:4]([H:8])[H:9])[H:12])([H:10])[H:11]>>[C:1](=[N:6][C@@:5]([N:3]([C:2]([H:13])([H:14])[H:15])[H:7])([N:4]([H:8])[H:9])[H:12])([H:10])[H:11],66.18932749999843
MR_12718_0,[C:1](/[C:3](=[C:2](/[O:5][H:7])[H:10])[H:11])([O:4][H:6])([H:8])[H:9]>>[C:1](=[C:3](/[C:2]([O:5][H:7])([H:9])[H:10])[H:11])(\[O:4][H:6])[H:8],65.97974249999254
